US07220856B2
Preparation of 4-[7-Chloro-2-(methylamino)-4-quinolinyl]-N-[(3S)-hexahydro-2-oxo-1H-azepin-3-yl]-1-piperazinecarboxamide
As described for example 78, (3S)-3-aminohexahydro-2H-azepin-2-one, 4-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a light yellow solid. LC-MS: 431 (M++1). 1H NMR (CDCl3): δ 1.34˜1.60 (m, 2H), 1.80˜1.92 (m, 2H), 1.98˜2.08 (m, 1H), 2.10˜2.18 (m, 1H), 3.06 (d, 3H), 3.12 (br.s, 4H), 3.20˜3.38 (m, 2H), 3.67 (br.s, 4H), 4.52 (br. dd, 1H), 5.98˜6.06 (m, 2H), 6.12 (d, 1H), 7.12 (dd, 1H), 7.67 (d, 1H), 7.70 (d, 1H).

reactant | (3S)-3-aminohexahydro-2H-azepin-2-one | N[C@@H]1C(NCCCC1)=O | C6H12N2O
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-[7-Chloro-2-(methylamino)-4-quinolinyl]-N-[(3S)-hexahydro-2-oxo-1H-azepin-3-yl]-1-piperazinecarboxamide | ClC1=CC=C2C(=CC(=NC2=C1)NC)N1CCN(CC1)C(=O)N[C@@H]1C(NCCCC1)=O | C21H27ClN6O2
